US07547710B2
A mixture of 3-[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]propanoic acid (1.90 g, 4.0 mmol), diphenylphosphoryl azide (1.3 ml, 6.0 mmol), triethylamine (0.80 ml, 6.0 mmol) and N,N-dimethylformamide (20 ml) was stirred at room temperature for 2 hrs. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and toluene (30 ml) was added to the residue. The mixture was heated under reflux for 1 hr. and the obtained mixture was cooled to room temperature. Benzyl alcohol (3 ml) was added, and the mixture was heated under reflux for 12 hrs. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to give benzyl 2-[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]ethylcarbamate (0.83 g, yield 35%) as an amorphous form.

reactant | 3-[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]propanoic acid | 4.0 mmol, 1.90 g | C(C)(C)(C)OC(=O)NCC=1C(=NC2=CC=C(C=C2C1C1=CC=C(C=C1)C)CCC(=O)O)CC(C)C | C29H36N2O4
reactant | diphenylphosphoryl azide | 6.0 mmol, 1.3 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 6.0 mmol, 0.80 ml | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | water | O | H2O
product | benzyl 2-[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]ethylcarbamate | 0.83 g, yield 35% | C(C)(C)(C)OC(=O)NCC=1C(=NC2=CC=C(C=C2C1C1=CC=C(C=C1)C)CCNC(OCC1=CC=CC=C1)=O)CC(C)C | C36H43N3O4
